US06770667B1
To a suspension of 9H-carbazole-1-carboxylic acid (116 mg) and 3-(4,5dimethylimidazol-1-yl)aniline (103 mg) in dichloromethane (5 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (158 mg) and 4-dimethylaminopyridine (101 mg), and the mixture was stirred for 20 hours. The mixture was diluted with dichloromethane and washed with water and brine. The mixture was dried over magnesium sulfate and evaporated under reduced pressure. After trituration with methanol, the residue was collected by filtration and dried to give N-[3-(4,5-dimethylimidazol-1-yl)-phenyl]-9H-carbazole-1-carboxamide (86 mg, 41.1%.

reactant | 9H-carbazole-1-carboxylic acid | 116 mg | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | 3-(4,5dimethylimidazol-1-yl)aniline | 103 mg | CC=1N=CN(C1C)C=1C=C(N)C=CC1 | C11H13N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 158 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 101 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(4,5-dimethylimidazol-1-yl)-phenyl]-9H-carbazole-1-carboxamide | CC=1N=CN(C1C)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3NC12 | C24H20N4O
